Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is an ___ yo female with a hx of HTN, hyperlipidemia and 
depression who presents w/ gradually onset, constant, 
progressively severe lower abdominal pain which at the time of 
presentation had become severe.  Descibes pain as a severe 
heaviness and soreness. Associated with lower back pain that is 
predominantly in the middle of her lower back.  Denies radiation 
of the pain from the abdomen to the back. Advil didn't help.  
Not changed with standing or walking.  Definitively worse with 
laying on the affected areas (lower back, left hip).  Has never 
had a similar pain in the past.  Pain was keeping her up at 
night.  Pain improved significantly with the morphine given in 
the ED.

Sent to ED by her PCP for abd pain, unable to sleep ___ pain 
last 2 nights w/ borderline leukocytosis at office of 11K 
(baseline 4K). 

ROS:
Endorses chronic nonproductive smoker's cough as well as some 
left-sided groin pain and sciatica pain with radiation down the 
left leg which has been noted since she slipped on ice and fell 
back in ___.
Denies any recent fever, chills, nausea, emesis, diarrhea, 
changes in bowel movements, changes in BM color, weight gain or 
weight loss, changes in appetite, BRBPR, vaginal bleeding, skin 
changes, jaundice, edema, CP, SOB, DOE, sore throat, vision 
changes, or headache.

ROS: per HPI above

PCP: ___, MD (___)
 
Past Medical History:
Hypertension
Hyperlipidemia
Depression
 
Social History:
___
Family History:
Brother: DM
Father: ___ cancer in age ___. Passed away aged ___.
Mother: COPD. Passed away age ___.
 
Physical Exam:
VS: T 99.1, HR 70, BP 152/68, RR 16, O2 sat 94% on RA

Lines/tubes: PIV
Gen: NAD, awake
HEENT: EOMI, sclera anicteric, PERRL
Neck: supple, no JVD
Chest: breathing comfortably, CTAB
Cardiovasc: RR, nl S1S1, no m/r/g, distal pulses 2+ b/l
Abd: no abdominal pain to light or deep palpation, soft, BS+, 
possible hepatomegaly, no splenomegaly appreciated, ___ 
sign absent
GU: trace left groin pain to deep palpation, no inguinal LAD 
appreciated
Extr: no swelling, clubbing, or cyanosis
Skin: no rashes or lesions
Neuro: CN II-XII intact (IX and X not specifically tested), 
strength 4+/5 throughout, reflexes grossly intact in b/l arms 
and legs
Psych: alert, calm
 
Pertinent Results:
___ 02:35PM BLOOD WBC-9.6 RBC-4.37 Hgb-12.9 Hct-39.5 MCV-90 
MCH-29.5 MCHC-32.7 RDW-12.9 RDWSD-42.6 Plt ___
___ 02:35PM BLOOD Neuts-70.5 Lymphs-17.6* Monos-9.3 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-6.73* AbsLymp-1.68 AbsMono-0.89* 
AbsEos-0.16 AbsBaso-0.05
___ 02:35PM BLOOD Glucose-151* UreaN-13 Creat-0.9 Na-137 
K-3.8 Cl-98 HCO3-22 AnGap-21*
___ 02:35PM BLOOD ALT-12 AST-18 AlkPhos-83 TotBili-0.4
___ 02:35PM BLOOD Lipase-17
___ 02:35PM BLOOD Albumin-4.8 Calcium-10.2 Phos-3.8 Mg-2.0
___ 02:39PM BLOOD Lactate-2.0

Labs reviewed: mild hyperglycemia

Imaging: CT abdomen/pelvis (___) - IMPRESSION:  
1.  Extensive colonic diverticulosis without evidence for acute 
diverticulitis.  Normal appendix. 
2.  8 mm pancreatic head hypodensity with apparent connection to 
the pancreatic duct, suggestive of an IPMN.  No pancreatic 
ductal dilation. MRCP could be performed for further evaluation, 
if clinically indicated. 
3.  1.7 cm segment VI hepatic lesion, likely reflecting a 
hemangioma but incompletely characterized on this single phase 
examination. 
4.  Multiple left lower lobe pulmonary nodules, measuring up to 
0.8 cm. Recommend follow-up chest CT in 3 months to document 
stability. 

 
Brief Hospital Course:
ASSESSMENT
___ y/o F w/ HTN, XOL, hypothyroidism and depression who p/w 3 
days of gradual onset, progressive, severe, constant lower 
abdominal and central lumbar back pain which was not relieved 
with NSAIDs, but was relieved with IV morphine and was not 
associated with any other signs, symptoms, or laboratory studies 
of note. 

After admission, she became pain free.
We performed an x-ray of her lumbar spine and her hip given 
location of the pain.  She had severe degenerative disease of 
the lumbar spine and some degenerative changes in her hips, but 
no fractures were identified.   Her pain is likely secondary to 
degenerative disc disease, and she may need steroid injections 
and/or pain control +/- referral to a spine physician for 
further assessment.

A CT abdomen/pelvis was also performed which revealed an IPMN as 
follows:
1.  Extensive colonic diverticulosis without evidence for acute 
diverticulitis.  Normal appendix. 
2.  8 mm pancreatic head hypodensity with apparent connection to 
the 
pancreatic duct, suggestive of an IPMN.  No pancreatic ductal 
dilation.  MRCP 
could be performed for further evaluation, if clinically 
indicated. 
3.  1.7 cm segment VI hepatic lesion, likely reflecting a 
hemangioma but 
incompletely characterized on this single phase examination. 
4.  Multiple left lower lobe pulmonary nodules, measuring up to 
0.8 cm.  
Recommend follow-up chest CT in 3 months to document stability. 

Given IPMN, she may benefit from evaluation by GI with either 
MRCP or EUS.   There were no concerning features re: her IPMN 
while hospitalized.

At time of discharge, she was pain-free.   She was found, 
however, to have sinus tachycardia to 110 bpm with no associated 
chest pain, shortness of breath, dizziness, or lightheadedness, 
and she was able to ambulate without difficulty.   She will have 
PCP follow up following discharge; appointment pending.  

For osteoporosis, she was told to increase her vitamin D to 1000 
U daily in addition to her prescribed bisphosphanate.  

Other issues:
# HTN - poorly controlled on admission
- likely multifactorial (pain, missed dose of lisinopril)
- hypertension improved modestly with administration of 20 mg PO 
lisinopril (twice the patient's home dose)

# Liver mass
- 1.7 cm segment VI hepatic lesion, likely reflecting a 
hemangioma but incompletely characterized on this single phase 
examination. PCP ___ recommended.

# Lung masses
- patient will need ___ CT scan in 3 months

# Hypothyroidism
- continued home levothyroxine

# Depression/anxiety
- ontinued home citalopram
.
___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. Lisinopril 10 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. Alendronate Sodium 70 mg PO QMON 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Vitamin E 400 UNIT PO DAILY 
9. Ascorbic Acid ___ mg PO DAILY 
10. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
2. Citalopram 20 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Simvastatin 10 mg PO QPM 
6. Alendronate Sodium 70 mg PO QMON 
7. Ascorbic Acid ___ mg PO DAILY 
8. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. Vitamin E 400 UNIT PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
(1) Osteoporosis
(2) Degenerative lumbar spine disease
(3) Sinus tachycardia
(4) Intraductal papillary mucinous  neoplasm 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

You were admitted with back and abdominal pain.   Your lab work 
was normal.  However, on x-ray we did see that you have 
significant degenerative disease of your lumbar spine which may 
require pain control and/or steroid injections / interventions 
in the future.  You should discuss this with your primary care 
physician.

We also noted that you had an abnormality in the pancreas called 
intraductal papillary mucinous neoplasm (IPMN) which requires 
further imaging.   Sometimes, these areas can go on to become 
cancerous in the future, so evaluating these areas is important. 
 Your primary care will help direct the next step.   

 
Followup Instructions:
___